US06831164B2
2,3,4,6-Tetra-O-acetyl-1-O-carboxymethyl-mannopyranose
A mixture that consists of 34.83 g (100 mmol) of 2,3,4,6-tetra-O-acetyl-mannopyranose, 1.70 g (5 mmol) of tetrabutylammonium hydrogen sulfate and 82.93 g (600 mmol) of fine-powder potassium carbonate in 350 ml of dioxane is cooled to 0° C. At 0° C., 34.36 g (150 mmol) of bromoacetic acid benzyl ester is added in drops over 10 minutes while being stirred vigorously. It is stirred for one hour at 0° C. 250 ml of MTB (methyl-tert-butyl ether) is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is taken up in 500 ml of ethanol. 5 g of palladium (10%) on activated carbon is added thereto and hydrogenated until no more hydrogen is taken up by the solution. Catalyst is filtered out, it is rewashed with ethanol, and the combined solutions are evaporated to the dry state in a vacuum.

reactant | 2,3,4,6-tetra-O-acetyl-mannopyranose | 100 mmol, 34.83 g | C(C)(=O)O[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O10
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid benzyl ester | 150 mmol, 34.36 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
reactant | MTB | 250 ml | COC(C)(C)C | C5H12O
catalyst | tetrabutylammonium hydrogen sulfate | 5 mmol, 1.70 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | 350 ml | O1CCOCC1 | C4H8O2
product | 2,3,4,6-Tetra-O-acetyl-1-O-carboxymethyl-mannopyranose | C(C)(=O)O[C@@H]1C(OCC(=O)O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H22O12
